US08383821B2
tert-Butyl 4-((5-bromo-2-methoxy-3-methylbenzyloxy)methyl)-4-phenylpiperidine-1-carboxylate.
5-Bromo-1-(bromomethyl)-2-methoxy-3-methylbenzene (0.88 g, 3.0 mmol) and tert-butyl 4-(hydroxymethyl)-4-phenylpiperidine-1-carboxylate (0.79 g, 2.7 mmol) were combined in dimethylformamide (9 mL) and cooled to 0° C. The reaction was treated with sodium hydride (144 mg, 5.99 mmol), stirred at 0° C. for 1 h, and at room temperature for 30 min. The reaction mixture was diluted with water and extracted with ethyl acetate (2×). The organic layers were pooled together, washed with brine (2×), dried over sodium sulfate, and concentrated. Column chromatography on silica gel (10% ethyl acetate/hexanes) gave 1.24 g (82%). 1H-NMR (CDCl3, 500 MHz) δ 7.34-7.35 (m, 4H), 7.21-7.24 (m, 1H), 7.19-7.20 (m, 1H), 7.10 (m, 1H), 4.34 (s, 2H), 3.72-3.76 (m, 2H), 3.53 (s, 3H), 3.43 (s, 2H), 3.01-3.07 (m, 2H), 2.21 (s, 3H), 2.17-2.19 (m, 2H), 1.85-1.91 (m, 2H), 1.43 (s, 9H). Mass spec.: 506.45 (MH)+.

reactant | 5-Bromo-1-(bromomethyl)-2-methoxy-3-methylbenzene | 3.0 mmol, 0.88 g | BrC=1C=C(C(=C(C1)CBr)OC)C | C9H10Br2O
reactant | tert-butyl 4-(hydroxymethyl)-4-phenylpiperidine-1-carboxylate | 2.7 mmol, 0.79 g | OCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C17H25NO3
reactant | sodium hydride | 5.99 mmol, 144 mg | [H-].[Na+]
solvent | dimethylformamide | 9 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | tert-Butyl 4-((5-bromo-2-methoxy-3-methylbenzyloxy)methyl)-4-phenylpiperidine-1-carboxylate | BrC=1C=C(C(=C(COCC2(CCN(CC2)C(=O)OC(C)(C)C)C2=CC=CC=C2)C1)OC)C | C26H34BrNO4
